US04727180
To a solution of 156 g (0.60 mole) of 4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]toluene in 675 ml of acetic anhydride is added 135 ml of concentrated sulfuric acid at 0°. To the solution stirred at 0° is added a soluton of 168 g (1.68 mole) of chromium trioxide in 750 ml of acetic anhydride dropwise over a two-hour period. After stirring is continued for an additional two hours, the resulting reaction mixture is poured into five liters of ice and is diluted with five liters of water to obtain an aqueous mixture which is allowed to stand for 18 hours. An oily solid with water above it is obtained. Water is decanted from the oily solid. The solid is dissolved in ether to obtain a solution which is washed with water and sodium bicarbonate solution, dried with anhydrous magnesium sulfate, filtered and evaporated at reduced pressure to give an oily solid. The solid is triturated with ether, filtered and recrystallized from chlorobutane to give 60 g of α,α -bis-acetyloxy-4-[1-(acetyloxy)-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]toluene, m.p. 93°-94.6°.

reactant | 4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]toluene | 0.60 mole, 156 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)C)(F)F | C10H8F6O
reactant | sulfuric acid | 135 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 675 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 750 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | five liters | O | H2O
catalyst | chromium trioxide | 1.68 mole, 168 g | [O-2].[O-2].[O-2].[Cr+6]
product | α,α -bis-acetyloxy-4-[1-(acetyloxy)-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]toluene | 60 g | C(C)(=O)OC(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OC(C)=O)OC(C)=O | C16H14F6O6
